US07320995B2
1-isopropylsulfonyl-2-amino-6-(2-(thien-2-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole methanesulfonate
Add thiophene-2-carboxaldehyde (3.16 mL, 33.8 mmol) to a stirring mixture of 1-isopropylsulfonyl-2-amino-6-(α-((tert-butyldimethylsilyl)oxy)-α-(phenyl)acetyl)-benzimidazole (15.0 g, 30.8 mmol), copper(II) acetate (11.2 g, 61.5 mmol), and ammonium acetate (23.7 g, 308 mmol) in acetic acid (300 mL). Heat the mixture at 95-100° C. and stir vigorously for 2 hours. Cool the mixture to 15° C., pour into a mixture of 750 mL saturated aqueous ammonium chloride and 250 mL concentrated ammonium hydroxide. Adjust the mixture to pH 10 with ammonium hydroxide precooled to 5° C. and then add 4 L 4:1 ethyl acetate:methanol. Separate the layers and wash the organic layer with saturated aqueous ammonium chloride (500 mL), dry over magnesium sulfate and concentrate under reduced pressure. Subject the residue to silica gel chromatography eluting with dichloromethane containing from 15-50% acetonitrile and 0.5% triethylamine. Suspend the recovered material in ethanol (75 mL), warm to 55-60° C. for 30 minutes, cool to −10° C. for 30 minutes, filter, wash sequentially with cold ethanol followed by diethyl ether. Dry under reduced pressure to provide the title compound in 40% yield as a dark yellow powder. MS(ES+): m/z=464.1 (M+H)+

reactant | thiophene-2-carboxaldehyde | 33.8 mmol, 3.16 mL | S1C(=CC=C1)C=O | C5H4OS
reactant | 1-isopropylsulfonyl-2-amino-6-(α-((tert-butyldimethylsilyl)oxy)-α-(phenyl)acetyl)-benzimidazole | 30.8 mmol, 15.0 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C(C2=CC=CC=C2)O[Si](C)(C)C(C)(C)C)=O)N | C24H33N3O4SSi
reactant | ammonium acetate | 308 mmol, 23.7 g | C(C)(=O)[O-].[NH4+]
reactant | ammonium chloride | 750 mL | [Cl-].[NH4+]
reactant | ammonium hydroxide | 250 mL | [OH-].[NH4+]
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
catalyst | copper(II) acetate | 61.5 mmol, 11.2 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-isopropylsulfonyl-2-amino-6-(2-(thien-2-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole methanesulfonate | 40% yield | CS(=O)(=O)O.C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C=2SC=CC2)N | InChI=1S/C23H21N5O2S2.CH4O3S/c1-14(2)32(29,30)28-18-13-16(10-11-17(18)25-23(28)24)21-20(15-7-4-3-5-8-15)26-22(27-21)19-9-6-12-31-19;1-5(2,3)4/h3-14H,1-2H3,(H2,24,25)(H,26,27);1H3,(H,2,3,4)
